US09388189B2
(S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
Triphenylphosphine (170 mg, 0.44 mmol) was dissolved in 2 mL anhydrous dichloromethane. Bromine (32 μl, 0.62 mmol) was added dropwise under argon atmosphere and the reaction was stirred at room temperature for 30 min. Triethylamine (247 μl, 1.77 mmol) and (S)-tert-butyl (3-hydroxy-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (170 mg, 0.44 mmol) were added and the reaction mixture was stirred at room temperature for 2 h. The mixture was poured into water and extracted with dichlorometane. The organics were dried over sodium sulphate, filtered and evaporated. The residue purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to obtain 147 mg (74% yield) of the title compound as a white solid. Purity 100%.

reactant | Triphenylphosphine | 0.44 mmol, 170 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 0.62 mmol, 32 μl | BrBr | Br2
reactant | Triethylamine | 1.77 mmol, 247 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl (3-hydroxy-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.44 mmol, 170 mg | OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C20H24N4O4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 147 mg, 74% yield | BrCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C20H23BrN4O3
